US05693833
Similarly, di-n-octyltin diiodide reacts with water to produce di-n-octyltin oxide according to the reaction:

reactant | di-n-octyltin diiodide | C(CCCCCCC)[Sn](CCCCCCCC)(I)I
reactant | water | O | H2O
product | di-n-octyltin oxide | C(CCCCCCC)[Sn](CCCCCCCC)=O | InChI=1S/2C8H17.O.Sn/c2*1-3-5-7-8-6-4-2;;/h2*1,3-8H2,2H3;;
